US07056932B2
(RS)-Ethoxy-[3-(4-methoxy-phenyl)-pyrazol-1-yl]-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-[3-(4-methoxy-phenyl)-pyrazol-1-yl]-acetamide. White amorphous solid. MS 391.2 ([M+H]+)

reactant | (RS)-Ethoxy-[3-(4-methoxy-phenyl)-pyrazol-1-yl]-acetic acid | C(C)OC(C(=O)O)N1N=C(C=C1)C1=CC=C(C=C1)OC | C14H16N2O4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-[3-(4-methoxy-phenyl)-pyrazol-1-yl]-acetamide | C(#N)C1=CC=C(CNC(C(N2N=C(C=C2)C2=CC=C(C=C2)OC)OCC)=O)C=C1 | C22H22N4O3
